US08252781B2
Process 3: Preparation of 6-{2-[4,4-dimethyl-3-oxo-2-(adamantan-2-yl)-1,2-diazetidin-1-yl]ethoxy}pyridine-3-carbonitrile
Under an argon atmosphere, a mixed solution of 4,4-dimethyl-1-(2-hydroxyethyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one (27.8 mg, 0.100 mmol) in tetrahydrofuran-N,N-dimethylformamide (2:1, 1 mL) was added with sodium hydride (10.0 mg, 0.200 mmol) and 6-chloro-3-pyridine carbonitrile (27.7 mg, 0.200 mmol), and the resultant was stirred at the same temperature for 1 hour. The reaction solution was added with water and extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using Preparatory Thin-Layer chromatography (hexane:ethyl acetate=1:1), and the title compound (38.1 mg, quant.) was obtained as a white crystalline powder.

reactant | 4,4-dimethyl-1-(2-hydroxyethyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one | 0.100 mmol, 27.8 mg | CC1(C(N(N1CCO)C1C2CC3CC(CC1C3)C2)=O)C | C16H26N2O2
reactant | sodium hydride | 0.200 mmol, 10.0 mg | [H-].[Na+]
reactant | 6-chloro-3-pyridine carbonitrile | 0.200 mmol, 27.7 mg | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | water | O | H2O
solvent | tetrahydrofuran N,N-dimethylformamide | 1 mL | O1CCCC1.CN(C=O)C
product | 6-{2-[4,4-dimethyl-3-oxo-2-(adamantan-2-yl)-1,2-diazetidin-1-yl]ethoxy}pyridine-3-carbonitrile | 38.1 mg | CC1(C(N(N1CCOC1=CC=C(C=N1)C#N)C1C2CC3CC(CC1C3)C2)=O)C | C22H28N4O2
